US04018773
trans-1,2,3,4-Tetrahydro-6,7-dimethoxy-3-[4 -(2-methoxyphenyl)-1-piperazinyl]-2 -naphthalenol
A solution of 2.94 g of 2,3-dimethoxy-6,7-epoxy-5,6,7,8-tetrahydronaphthalene, 2.9 g of 1-(o-methoxyphenyl)piperazine, and 1 ml of isopropanol in 30 ml of xylene is refluxed for 5 days. The reaction mixture is concentrated in vacuo, the residue taken up in ethyl acetate, and this is thoroughly extracted with dilute hydrochloric acid. The combined acid extracts are made basic with dilute sodium hydroxide solution, and this is thoroughly extracted with ethyl acetate. The combined ethyl acetate extracts are dried and concentrated in vacuo to an oil, which gives 1.3 g of solid on trituration with ethyl acetate. Recrystallization from ethyl acetate gives 600 mg of the title compound, melting point 172°-174° C.

reactant | 2,3-dimethoxy-6,7-epoxy-5,6,7,8-tetrahydronaphthalene | 2.94 g | COC1=CC=2CC3C(CC2C=C1OC)O3 | C12H14O3
reactant | 1-(o-methoxyphenyl)piperazine | 2.9 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | isopropanol | 1 ml | C(C)(C)O | C3H8O
solvent | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
product | trans-1,2,3,4-Tetrahydro-6,7-dimethoxy-3-[4 -(2-methoxyphenyl)-1-piperazinyl]-2 -naphthalenol | 1.3 g | COC=1C=C2C[C@H]([C@@H](CC2=CC1OC)O)N1CCN(CC1)C1=C(C=CC=C1)OC | C23H30N2O4
